US06355813B1
A 250 mL three-necked flask under nitrogen was charged with (S)-3-(1,3-Benzodioxol-5-yl)-2,3-dihydro-6-propoxy-1H-inden-1-one (6.6 g, 21.3 mmol, 90% e.e.) and dimethyl carbonate (70 mL). To the solution was added sodium t-amylate (4.7 g, 42.5 mmol) in four portions over 20 minutes to maintain the temperature below 35° C. Upon complete addition of base, stir the solution until the temperature drops to 20° C. (˜1.5 h). Cool the solution to 0° C. and add a 50% acetic acid solution (50 mL) over 15 minutes to keep the temperature below 5° C. Concentrate the solution to ¼ volume, add toluene (100 mL), wash the organic phase with water (2×100 mL), sat. NaHCO3 (100 mL), brine (100 mL), dry over MgSO4 and concentrate in vacuo. Slurry the crude solid in cold MeOH (25 mL, 0° C.), filter and air dry to afford (1S-trans)-Methyl 1-(1,3-benzodioxol-5-yl)-2,3-dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate as a pale yellow solid (4.8 g, 62%): mp 103.0-105.5° C.; 1H NMR δ7.15 (d, J=2.3 Hz, 1H), 7.05 (d, J=8.4 Hz, 1H), 6.95 (dd, J=2.4, 8.3 Hz, 1H), 6.7 (m, 2H), 6.45 (d, J=1.2 Hz, 1H), 6.4 (m, 2H), 4.6 (s, 1H 3.9 (t, J=6.5 Hz, 2H), 3.7 (s, 3H), 1.8 (quintet, J=7.2 Hz, 2H), 1.05 (t, J=7.4 Hz, 3H).

reactant | (S)-3-(1,3-Benzodioxol-5-yl)-2,3-dihydro-6-propoxy-1H-inden-1-one | 21.3 mmol, 6.6 g | O1COC2=C1C=CC(=C2)[C@@H]2CC(C1=CC(=CC=C21)OCCC)=O | C19H18O4
reactant | dimethyl carbonate | 70 mL | C(OC)(OC)=O | C3H6O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | (1S-trans)-Methyl 1-(1,3-benzodioxol-5-yl)-2,3-dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate | 4.8 g, 62% | O1COC2=C1C=CC(=C2)[C@@H]2[C@H](C(C1=CC(=CC=C21)OCCC)=O)C(=O)OC | C21H20O6
